US05864039
2-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)ethylamine (1 g) as starting compound was reacted and treated in the same manner as in Example 34 using phenyl isothiocyanate (0.49 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.83 g) to give 4-amino-5-chloro-2-methoxy-N-(1-(2-(3-phenylthioureido)ethyl)pyrrolidin-3-ylmethyl)benzamide.

reactant | 2-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)ethylamine | 1 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCN | C12H25N3O2
reactant | phenyl isothiocyanate | 0.49 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.83 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-(1-(2-(3-phenylthioureido)ethyl)pyrrolidin-3-ylmethyl)benzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCNC(=S)NC2=CC=CC=C2)C=C1Cl)OC | C22H28ClN5O2S
